US04111923
(f) Nα -Benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride
A solution of 18.6 g. of L-arginyl-L-proline N-ethylamide hydrochloride (Ex.1,1) and 7.2 g. of Nα -benzyloxycarbonyl-L-leucine p-nitrophenylester in 30 ml. of dimethylformamide is allowed to stand for four days, warmed to 50° C. for a half hour and evaporated at reduced pressure and 40° C. to yield an oil. A solid product is obtained by chromatography over silica gel, eluting with chloroform with increasing percent of methanol. Fraction selection is made on the basis of analytical thin layer chromatography and the product obtained solid by precipitating from methanol with ethyl acetate and then by dropping a methanol solution into ethyl ether. The solid is dried at 40° C. and reduced pressure; [α]D25 -68.4° (c 1, methanol); ultraviolet in methanol λmax 257 E11 3.5.

reactant | L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](N)CCCNC(N)=N)=O)=O
reactant | Nα -benzyloxycarbonyl-L-leucine p-nitrophenylester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H22N2O6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCNC(N)=N)=O)=O | InChI=1S/C27H43N7O5.ClH/c1-4-30-24(36)22-13-9-15-34(22)25(37)20(12-8-14-31-26(28)29)32-23(35)21(16-18(2)3)33-27(38)39-17-19-10-6-5-7-11-19;/h5-7,10-11,18,20-22H,4,8-9,12-17H2,1-3H3,(H,30,36)(H,32,35)(H,33,38)(H4,28,29,31);1H/t20-,21-,22-;/m0./s1
